US07981903B2
2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-5-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-5-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (194 mg, 0.282 mmol) was dissolved in dioxane (6 mL), 6N NaOH (2 mL) and water (2 mL) was added in a microwave safe vessel. The reaction was then heated in a microwave at 120° C. for 17 min. The reaction was diluted with EtOAc and the organic layer was washed with water and saturated brine solution and dried over sodium sulfate. Solvents were removed under reduced pressure and the residue purified by chromatography on SiO2 to afford 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-5-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide (104 mg, 0.195 mmol) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.25 (s, 6 H) 2.41 (s, 3 H) 3.08-3.17 (m, 4 H) 3.76 (s, 3 H) 4.18 (t, J=8.42 Hz, 2 H) 6.68 (s, 1 H) 6.85 (t, J=9.25 Hz, 1 H) 6.95 (s, 1H) 7.19-7.30 (m, 1 H) 7.52 (s, 1 H) 8.10 (d, J=15.93 Hz, 2 H) 8.48 (d, J=8.42 Hz, 1H) 8.57 (s, 1 H) 9.81 (s, 1 H) 10.92 (s, 1 H). ESIMS (M+H)+=533.

reactant | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-5-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-5-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 0.282 mmol, 194 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2C)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)OC)C.CN(CC(=O)N2CCC1=CC(=C(C=C21)NC2=NC(=C1C(N2)=NC=C1C)NC1=C(C(=O)N)C(=CC=C1)F)OC)C
reactant | NaOH | 6N, 2 mL | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-5-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | 0.195 mmol, 104 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2C)NC2=C(C(=O)N)C(=CC=C2)F)OC)C | C27H29FN8O3
